US07985753B2
(6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(7-fluoro-1-ethyl-3,4-dihydro-1H-isoquinolin-2-yl)-methanone
In close analogy to the procedure described in Example 1, 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 7-fluoro-1-ethyl-1,2,3,4-tetrahydro-isoquinoline to provide the title compound in moderate yield.

reactant | 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | 7-fluoro-1-ethyl-1,2,3,4-tetrahydro-isoquinoline | FC1=CC=C2CCNC(C2=C1)CC | C11H14FN
product | (6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(7-fluoro-1-ethyl-3,4-dihydro-1H-isoquinolin-2-yl)-methanone | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC(=CC=C1CC2)F)CC | C18H16ClFN4O
